US04668831
To 20 ml of acetone were added 1.25 g of 4-fluoro-N-methylaniline and 1.38 g of anhydrous potassium carbonate, and a solution obtained by dissolving 2.5 g of 3-tert-butyl-4-chlorophenyl chloroformate into 20 ml of acetone was added thereto with stirring at room temperature. After stirring for 30 minutes as it is, the mixture was refluxed with heating for 2 hours. After cooled down to room temperature, the reaction mixture was poured into cold water and the resultant product was extracted with benzene. The benzene solution was washed with water and a saturated aqueous solution of sodium chloride in this order, dried over anhydrous magnesium sulfate, and thereafter benzene was distilled off under reduced pressure. The residue was purified through a column chromatography (employing silica gel as carrier and benzene as developing solvent) and further recrystallized from ethanol to give 2.7 g of 3-tert-butyl-4-chlorophenyl N-(4-fluorophenyl)-N-methylcarbamate having melting point of 92°-94° C.

reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | 4-fluoro-N-methylaniline | 1.25 g | FC1=CC=C(NC)C=C1 | C7H8FN
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-tert-butyl-4-chlorophenyl chloroformate | 2.5 g | ClC(=O)OC1=CC(=C(C=C1)Cl)C(C)(C)C | C11H12Cl2O2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-tert-butyl-4-chlorophenyl N-(4-fluorophenyl)-N-methylcarbamate | 2.7 g | FC1=CC=C(C=C1)N(C(OC1=CC(=C(C=C1)Cl)C(C)(C)C)=O)C | C18H19ClFNO2
